US09029405B2
Step 2: tert-butyl 2-amino-2-methylpropanoate
To the solution of tert-butyl 2-(benzylamino)-2-methylpropanoate (20 g, 0.08 mol) in ethyl acetate (1 L), was added the catalyst Palladium-carbon (10%, 2.2 g). The resulting mixture was put under the hydrogen pressure of 5 Kg/cm2, at RT for 18 h. The reaction mixture was filtered. The filtrate was concentrated affording the title compound as pale green liquid. 1H NMR (DMSO-d6, 400 MHz) δ 1.38 (brs, 2H), 1.14 (s, 9H), 1.14-1.11 (d, J=10.7 Hz, 6H).

reactant | tert-butyl 2-(benzylamino)-2-methylpropanoate | 0.08 mol, 20 g | C(C1=CC=CC=C1)NC(C(=O)OC(C)(C)C)(C)C | C15H23NO2
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
catalyst | Palladium-carbon | 2.2 g | [C].[Pd]
product | tert-butyl 2-amino-2-methylpropanoate | NC(C(=O)OC(C)(C)C)(C)C | C8H17NO2
